US04240988
Triphenyl phosphite-chlorine kinetic complex
Chlorine and 20.0 gm. of triphenyl phosphite were added simultaneously to 100 ml. of methylene chloride at -15° to -20° C. maintaining a faint chlorine color throughout the co-addition. After warming the product solution to room temperature it was studied by 31P nmr. The 31P nmr spectrum of an aliquot the product solution initially indicated 1 component having a signal at -3.7 ppm relative to the phosphoric acid 31P nmr resonance signal. That signal decreased in intensity with time as a new signal at 22.7 ppm increased in intensity. From the 31P nmr data, the half-life for the initial product was determined to be about 8 hours.

reactant | Chlorine | ClCl | Cl2
reactant | triphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Triphenyl phosphite chlorine | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1.ClCl | InChI=1S/C18H15O3P.Cl2/c1-4-10-16(11-5-1)19-22(20-17-12-6-2-7-13-17)21-18-14-8-3-9-15-18;1-2/h1-15H;
